US06455744B1
SYNTHESIS OF 1,2-DIFLUORO-6-(trans-4-PROPYLCYCLOHEXYL)NAPHTHALENE
A mixture of 1,1,2,2-tetrafluoro-6-(trans-4-propylcyclohexyl)-1,2-dihydronaphthalene and 1,1,2,4-tetrafluoro-6-(trans-4-propylcyclohexyl)-1,2-dihydronaphthalene, 10.0 g (30.6 mmol) in THF was stirred with zinc dust (10 g, 153 mmol) and aqueous 30% NH40H at ambient temperature. After 27 h, GC analysis showed that the mixture contained <1% of the starting material. The mixture was filtered, and the zinc was washed with hexanes. The filtrate was transferred to a separatory funnel, the phases were separated, and the solvent was evaporated from the organic phase. The weight of product recovered was 8.6 g. GC analysis of the product showed that it contained 0.9% 1,1,2,2-tetrafluoro-6-(trans-4-propylcyclohexyl)-1,2-dihydronaphthalene, 13.4% 1,2,4-trifluoro-6-(trans-4-propylcyclohexyl)naphthalene, and 82% 1,2-difluoro-6-(trans-4-propylcyclohexyl)naphthalene. This example shows that when ammonia is not buffered to reduce the pH, more by-products are formed compared to the reaction in which buffered ammonia is used (Example 8).

reactant | 1,1,2,2-tetrafluoro-6-(trans-4-propylcyclohexyl)-1,2-dihydronaphthalene | FC1(C(C=CC2=CC(=CC=C12)[C@@H]1CC[C@H](CC1)CCC)(F)F)F | C19H22F4
reactant | 1,1,2,4-tetrafluoro-6-(trans-4-propylcyclohexyl)-1,2-dihydronaphthalene | FC1(C(C=C(C2=CC(=CC=C12)[C@@H]1CC[C@H](CC1)CCC)F)F)F | C19H22F4
reactant | ammonia | N | H3N
solvent | THF | C1CCOC1 | C4H8O
catalyst | zinc | 153 mmol, 10 g | [Zn] | Zn
product | 1,2-DIFLUORO-6-(trans-4-PROPYLCYCLOHEXYL)NAPHTHALENE | FC1=C(C=CC2=CC(=CC=C12)[C@@H]1CC[C@H](CC1)CCC)F | C19H22F2
